US05283248
tert-Butyl 4-[5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-2-hydroxy-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate (350 mg, 0.76 mmol) is treated with a 2.5N hydrochloric acid solution in dioxane (4 ml), whereby a white precipitate forms immediately. The suspension is stirred at room temperature (25°) for 18 hours. The separated crystals are filtered off and dissolved in water (10 ml). The solution is treated with active charcoal, then filtered and cooled to 0°. The separated crystals are filtered off, washed with ethanol and ether and dried in a high vacuum. There are obtained 176 mg (58%) of 5-cyclopropyl-8-fluoro-2-hydroxy-7-(1-piperazinyl)-pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione hydrochloride.

reactant | tert-Butyl 4-[5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-2-hydroxy-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate | 0.76 mmol, 350 mg | C1(CC1)N1C=2N(C3=C1C=C(C(=C3)F)N3CCN(CC3)C(=O)OC(C)(C)C)C(N(C(C2)=O)O)=O | C22H26FN5O5
reactant | hydrochloric acid | 2.5N | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 5-cyclopropyl-8-fluoro-2-hydroxy-7-(1-piperazinyl)-pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione hydrochloride | 176 mg, 58% | Cl.C1(CC1)N1C=2N(C3=C1C=C(C(=C3)F)N3CCNCC3)C(N(C(C2)=O)O)=O | InChI=1S/C17H18FN5O3.ClH/c18-11-7-13-14(8-12(11)20-5-3-19-4-6-20)21(10-1-2-10)15-9-16(24)23(26)17(25)22(13)15;/h7-10,19,26H,1-6H2;1H
